US05834506
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-6-phenyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 using 4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-6-phenyl-5,6-dihydro-pyran-2-one (0.155 g, 0.5 mmol) from Example UU, toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester (prepared in Example FFF; 0.2 g, 0.55 mmol), K2CO3 (0.27 g, 1.95 mmol), and DMF (3 mL). The solution was stirred overnight at room temperature, concentrated and the residue partitioned between 1N HC1 and EtOAc. The organic phase was dried (MgSO4), and concentrated. Purification by silica gel chromatography, eluting with MeOH:CHCl3 :hexane (5:90:10 to 10:90:10) gave the title compound, m.p. 132°-135° C. 1H NMR (DMSO-d6) δ 1.45 (s, 9 H), 1.76 (s, 3 H), 2.08-2.24 (m, 3 H), 2.48 (m, 1 H), 3.41 (dd, 2 H), 4.32 (s, 2 H), 4.91 (br s , 1 H), 6.17 (s, 1 H), 6.46-6.55 (m, 3 H), 7.02 (t, 1 H), 7.22 (s, 1 H), 7.35-7.46 (m, 5 H), 9.23 (s, 1 H) 12.15 (bs, 1 H).

reactant | 4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-6-phenyl-5,6-dihydro-pyran-2-one | 0.5 mmol, 0.155 g | OC1=CC(OC(C1)(C1=CC=CC=C1)CCC1=CC(=CC=C1)O)=O | C19H18O4
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl) ester | 0.55 mmol, 0.2 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | K2CO3 | 1.95 mmol, 0.27 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(3-hydroxy-phenyl)-ethyl]-6-phenyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(C1=CC=CC=C1)CCC1=CC(=CC=C1)O)=O | C31H34O5S
